US07696192B2
Step A. N,N-Dimethyl-1-(4-nitro-1H-indol-3-yl)methanamine
N,N,N′,N′-Tetramethyldiaminomethane (2.2 mL, 15.6 mol) in acetic acid (30 mL) was added dropwise over 60 min to a solution of 4-nitroindole (2.30 g, 14.2 mol) in acetic acid (30 mL). After 3.5 h, the reaction was cooled to 0° C., and 20% aqueous sodium hydroxide was added to adjust the pH to 11. The mixture was extracted with CHCl3 (3×300 mL) and the combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound. MS: m/z=220 (M+1).

reactant | N,N,N′,N′-Tetramethyldiaminomethane | 15.6 mol, 2.2 mL | CN(C)CN(C)C | C5H14N2
reactant | 4-nitroindole | 14.2 mol, 2.30 g | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | N,N-Dimethyl-1-(4-nitro-1H-indol-3-yl)methanamine | CN(CC1=CNC2=CC=CC(=C12)[N+](=O)[O-])C | C11H13N3O2
